US03994940
The 1,3-dioxo-2-isoindolinepropionic acid, [[N-[2-(o-chlorobenzoyl)phenyl]-1,3-dioxo-2-isoindolinepropionamido]methylene]hydrazide from Preparation 5A is mixed with toluene (165 ml.), treated with trifluoroacetic acid (0.732 ml.) and warmed, under nitrogen, at 100°-110° C. for 1.5 hours. The mixture is concentrated in vacuo and the residue is mixed with cold, dilute sodium bicarbonate and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on silica gel (200 g.) with 2% methanol-98% chloroform. The product thus obtained is crystallized to give 2'-chloro-2-[3-(2-phthalimidoethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 1,3-dioxo-2-isoindolinepropionic acid, [[N-[2-(o-chlorobenzoyl)phenyl]-1,3-dioxo-2-isoindolinepropionamido]methylene]hydrazide | ClC1=C(C(=O)C2=C(C=CC=C2)N(C(CCN2C(C3=CC=CC=C3C2=O)=O)=O)C=NNC(CCN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1 | C36H26ClN5O7
reactant | trifluoroacetic acid | 0.732 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 165 ml | C1(=CC=CC=C1)C | C7H8
product | 2'-chloro-2-[3-(2-phthalimidoethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H17ClN4O3
